US08212041B2
1) Preparation of 2-methyl-5-(trimethylstannyl)thiazole
Butyllithium (1.6M in THF, 3.5 ml, 5.5 mmol) was added to a stirred solution of 2-methylthiazole (0.45 ml, 5.0 mmol) in THF (15 mL) at −78° C. The reaction mixture was stirred at −78° C. for 40 min. Chlorotrimethylstannane (1M in THF, 5.0 ml, 5.0 mmol) was added. Stirring was continued at −78° C. for 45 min. The reaction mixture was quenched with a satured aqueous solution of NaHCO3. The aqueous layer was extracted with Et2O. The organic extracts were dried over MgSO4, filtered and concentrated in vacuo. Used in the next step without purification (obtained 1.29 g). MS m/z=264.1. Calc'd for C7H13NSSn: 261.94.

reactant | Butyllithium | 5.5 mmol, 1.6M, 3.5 ml | C(CCC)[Li]
reactant | 2-methylthiazole | 5.0 mmol, 0.45 ml | CC=1SC=CN1 | C4H5NS
reactant | Chlorotrimethylstannane | 5.0 mmol, 1M, 5.0 ml | Cl[Sn](C)(C)C
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-methyl-5-(trimethylstannyl)thiazole | CC=1SC(=CN1)[Sn](C)(C)C | InChI=1S/C4H4NS.3CH3.Sn/c1-4-5-2-3-6-4;;;;/h2H,1H3;3*1H3;
